US07582651B2
(2E)-3-{3-cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(4-cyanophenyl)prop-2-enamide
To a solution of (2E)-3-{3-cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid (300 mg, 0.808 mmol).in THF (3 ml) were added DMF (0.03 ml) and oxalylchloride (0.0846 ml, 0.970 mmol), the mixture was stirred at room temperature for 1 hour and the solvent was distilled off under reduced pressure. The residue was added under ice-cooling to a solution of 4-aminobenzonitrile (119 mg, 0.968 mmol), pyridine (0.262 ml, 3.24 mmol) and THF (3 ml), and the mixture was stirred under ice-cooling for 2 hours and at room temperature for 12 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to give the objective product as a solid material. The resultant material was recrystallized from ethyl acetate.

reactant | (2E)-3-{3-cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid | 0.808 mmol, 300 mg | C(#N)C1=C(N(C2=NC(=CC(=C21)C)C)[C@H]2CCCC1=CC=CC=C21)/C=C/C(=O)O | C23H21N3O2
reactant | oxalylchloride | 0.970 mmol, 0.0846 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-aminobenzonitrile | 0.968 mmol, 119 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | pyridine | 3.24 mmol, 0.262 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | DMF | 0.03 ml | CN(C)C=O | C3H7NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (2E)-3-{3-cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(4-cyanophenyl)prop-2-enamide | C(#N)C1=C(N(C2=NC(=CC(=C21)C)C)[C@H]2CCCC1=CC=CC=C21)/C=C/C(=O)NC2=CC=C(C=C2)C#N | C30H25N5O
